US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.0 g) and 10% Pd—C (0.308 g) in DMF (10 mL)-EtOAc (100 mL) was hydrogenated under balloon pressure at 20° C. for 1 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 50%-100% EtOAc in hexane) to give 3-(4-hydroxyphenyl)-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.30 g) as a light brown solid. This product was subjected to the next reaction without further purification.

reactant | 3-[4-(benzyloxy)phenyl]-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2C)C)=O | C21H19N3O2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd—C | 0.308 g | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-1,7-dimethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.30 g | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2C)C)=O | C14H13N3O2
